US06294566B1
2-(Benzhydrylideneamino)-3-quinolin-4-yl-butyronitrile.
To N-(Diphenylmethylene)aminoacetonitrile (2.26 g, 10.2 mmol) in 10 ml of anhydrous THF and HMPA (2.17 ml, 12.14 mmol), at −78° C. LDA (2.0 M, 6.0 ml, 12.14 mmol) was added dropwise over a period of 5 minutes. The color of solution turns from coloress to yellow to dark brown. It was then stirred at −78° C. for one hour. Then 4-(1-Chloroethyl)-quinoline (1.79 g, 9.34 mmol), was added dropwise and the reaction mixture was slowly brought to room temperature over a period of five minutes, quenched by addition of ice and partitioned between EtOAc (20 ml) and water (5 ml). The organic layer was dried over sodium sulfate, filtered, concentrated and column purified (hexanes:EtOAc; 3.5:1.5) to give 3.0 g (86%) of the product as a syrup which was used as such for the subsequent step.

reactant | N-(Diphenylmethylene)aminoacetonitrile | 10.2 mmol, 2.26 g | C1=CC=C(C=C1)C(=NCC#N)C2=CC=CC=C2 | C15H12N2
reactant | HMPA | 12.14 mmol, 2.17 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | LDA | 12.14 mmol, 2.0 M, 6.0 ml | [Li+].CC(C)[N-]C(C)C
reactant | 4-(1-Chloroethyl)-quinoline | 9.34 mmol, 1.79 g | ClC(C)C1=CC=NC2=CC=CC=C12 | C11H10ClN
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(Benzhydrylideneamino)-3-quinolin-4-yl-butyronitrile | 3.0 g, 86% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(C#N)C(C)C1=CC=NC2=CC=CC=C12 | C26H21N3
